US04183928
Under ice-cooling, monoethyl oxalate monochloride (10.5 g) is added dropwise to a solution of aluminum chloride (10.5 g) in nitrobenzene (30 ml). To the solution is added dropwise 2-chloro-5-fluoroanisole (84 g). After 30 minutes, the mixture is poured into ice-water and extracted with ether. The extract is washed with dilute hydrochloric acid and dilute aqueous sodium bicarbonate, dried and evaporated to remove the solvent. Recrystallization from a mixture of ether and n-hexane gives ethyl 4-methyl-3-chloro-6-fluorophenylglyoxalate (mp. 84°-85° C.). A mixture of the glyoxalate (5.21 g), ethylene glycol (28 ml), potassium hydroxide (4.5 g) and hydrazine monohydrate (2.85 ml) is heated at 155°-158° C. for 1.5 hours and then at 220° C. for 2 hours and poured into water. The mixture is washed with ether, acidified with hydrochloric acid and extracted with ether. The extract is evaporated. The obtained residue is recrystallized from dichloromethane to give 3-chloro-4-hydroxy-6-fluorophenylacetic acid (mp. 137°-138° C.). A part of the acid (0.615 g) is suspended in dichloromethane (15 m) and esterified with diphenyldiazomethane to give crystals of the corresponding diphenylmethyl ester (mp. 121°-122° C.).

reactant | monoethyl oxalate monochloride | 10.5 g | [Cl-].C(C(=O)[O-])(=O)OCC
reactant | aluminum chloride | 10.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-chloro-5-fluoroanisole | 84 g | ClC1=C(C=C(C=C1)F)OC | C7H6ClFO
reactant | nitrobenzene | 30 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | ethyl 4-methyl-3-chloro-6-fluorophenylglyoxalate | CC1=C(C=C(C(=C1)F)C(C(=O)OCC)=O)Cl | C11H10ClFO3
